* AD743A SPICE Macro-model 4/92, Rev. A
* AAG / PMI
*
* This version of the AD743 multiplier model simulates the worst case
* parameters of the 'A' grade.  The worst case parameters used
* correspond to those in the data sheet.
*
* Copyright 1992 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* Node assignments
*              non-inverting input
*              |   inverting input
*              |   |   positive supply
*              |   |   |   negative supply
*              |   |   |   |   output
*              |   |   |   |   |
.SUBCKT AD743A 1   2   99  50  37
*
* INPUT STAGE & POLE AT 65 MHz
*
IOS 1 2 DC 75E-12
CIN 1 2 20E-12
EOS 9 3 POLY(1) 16 31 800E-6 1
EN 3 1 41 0 1
J1 5 2 4 PJX
J2 6 9 4 PJX
R3 5 51 0.9323
R4 6 51 0.9323
C2 5 6 1.3132E-9
I1 97 4 100E-3
EPOS 97 0 99 0 1
ENEG 51 0 50 0 1
GN1 0 1 44 0 1E-6
GN2 0 2 47 0 1E-6
*
* INPUT NOISE VOLTAGE GENERATOR
*
VN1 40 0 DC 2
DN1 40 41 DEN
DN2 41 42 DEN
VN2 0 42 DC 2
*
* INPUT NOISE CURRENT GENERATOR FOR IN+
*
VN3 43 0 DC 2
DN3 43 44 DIN
DN4 44 45 DIN
VN4 0 45 DC 2
*
* INPUT NOISE CURRENT GENERATOR FOR IN-
*
VN5 46 0 DC 2
DN5 46 47 DIN
DN6 47 48 DIN
VN6 0 48 DC 2
*
* GAIN STAGE & DOMINANT POLE AT 4.78 Hz
*
EREF 98 0 31 0 1
G1 98 12 5 6 1.0726
R5 12 98 9.32314E5
C3 12 98 35.714E-9
V1 99 13 DC 0.8
D1 12 13 DX
V2 14 50 DC 2
D4 14 12 DX
*
* CMR Network with Zero at 7.554 kHz
*
ECM 15 98 POLY(2) 1 31 2 31 (0,50,50)
RCM1 15 16 1
CCM 15 16 2.107E-5
RCM2 16 98 1E-6
*
* NEGATIVE ZERO AT -19.5 MHz
*
ENZ 17 98 12 31 1E6
RNZ1 17 18 1
CNZ 17 18 -8.1618E-9
RNZ2 18 98 1E-6
*
* POLE-ZERO PAIR AT 330 kHz/690 kHz
*
GPZ 98 19 18 31 1
RPZ1 19 98 1
RPZ2 19 20 0.91667
CPZ 20 98 251.63E-9
*
* POLE AT 65 MHz
*
G2 98 21 19 31 1
R10 21 98 1
C5 21 98 2.4485E-9
*
* OUTPUT STAGE
*
VWIRE 21 30 0
*
IDC 99 50 DC 9.7E-3
RDC1 99 31 50E3
CDC 31 0 1E-12
RDC2 31 50 50E3
DO1 99 32 DX
GO1 32 50 36 30 5.5556E-3
DO2 50 32 DY
DO3 99 33 DX
GO2 33 50 30 36 5.5556E-3
DO4 50 33 DY
VSC1 34 36 3.1
DSC1 30 34 DX
VSC2 36 35 2.66
DSC2 35 30 DX
GO3 36 99 99 30 5.5556E-3
GO4 50 36 30 50 5.5556E-3
FO1 36 0 VSC1 1
FO2 0 36 VSC2 1
RO1 99 36 180
RO2 36 50 180
LO 36 37 250E-9
*
* MODELS USED
*
.MODEL PJX PJF(VTO=-2 BETA=5.7526 IS=400E-12)
.MODEL DEN D(IS=1E-12 RS=1.237E3 AF=1 KF=1.3772E-15)
.MODEL DIN D(IS=1E-12 RS=5.7483E3 AF=1 KF=7.7505E-15)
.MODEL DX D(IS=1E-15)
.MODEL DY D(IS=1E-15 BV=50)
.ENDS AD743A
