* AD780A SPICE Macromodel 5/93, Rev. A
* AAG / PMI
*
* This version of the AD780 voltage reference model simulates the worst case
* parameters of the 'A' grade.  The worst case parameters used
* correspond to those in the data sheet.
*
* Copyright 1993 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
*  NODE NUMBERS
*              VIN
*               |   TEMP
*               |   |   GND
*               |   |   |   TRIM
*               |   |   |   |   VOUT
*               |   |   |   |   |   RANGE
*               |   |   |   |   |   |
.SUBCKT AD780A  2   3   4   5   6   8
*
* BANDGAP REFERENCE
*
I1 4 40 DC 1.21174E-3
*R1 40 4 1E3 TC=7E-6
*jg, 25/5/2000: corrected syntax model
R1 40 4 1E3 R1MOD
.MODEL R1MOD R(TC1=7E-6)
EN 10 40 42 0 1
G1 4 10 2 4 4.85668E-9
F1 4 10 POLY(2) VS1 VS2 (0,2.42834E-5,3.8E-5)
Q1 2 10 11 QT
I2 11 4 DC 12.84E-6
R2 11 3 1E3
I3 3 4 DC 0
*
* NOISE VOLTAGE GENERATOR
*
VN1 41 0 DC 2
DN1 41 42 DEN
DN2 42 43 DEN
VN2 0 43 DC 2
*
* INTERNAL OP AMP
*
G2 4 12 10 20 1.93522E-4
R3 12 4 2.5837E9
C1 12 4 6.8444E-11
D1 12 13 DX
V1 2 13 DC 1.2
*
* SECONDARY POLE @ 508 kHz
*
G3 4 14 12 4 1E-6
R4 14 4 1E6
C2 14 4 3.1831E-13
*
* OUTPUT STAGE
*
ISY 2 4 6.8282E-4
FSY 2 4 V1 -1
RSY 2 4 500E3
*
G4 4 15 14 4 25E-6
R5 15 4 40E3
Q2 4 15 16 QP
I4 2 16 DC 100E-6
Q3 4 16 18 QP
R6 18 23 15
R7 16 21 150E3
R8 2 17 34.6
Q4 17 16 19 QN
R9 21 20 6.46E3
R10 20 4 6.1E3
R11 20 5 53E3
R12 20 8 15.6E3
I5 5 4 DC 0
I6 8 4 DC 0
VS1 21 19 DC 0
VS2 23 21 DC 0
L1 21 6 1E-7
*
* OUTPUT CURRENT LIMIT
*
FSC 15 4 VSC 1
VSC 2 22 DC 0
QSC 22 2 17 QN
*
.MODEL QT NPN(IS=1.68E-16 BF=1E4)
.MODEL QN NPN(IS=1E-15 BF=1E3)
.MODEL QP PNP(IS=1E-15 BF=1E3)
.MODEL DX D(IS=1E-15)
.MODEL DEN D(IS=1E-12 RS=2.425E+05 AF=1 KF=6.969E-16)
.ENDS AD780A
