*  AD8031a Spice Macro-model           ADI/SMR 8/96, Rev A
*
*  Copyright 1996 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.
* Use of this model indicates your acceptance with
* the terms and provisions in the License Statement.
*
* The following parameters are accurately modeled;
*
*    open loop gain and phase vs frequency
*    output clamping voltage and current
*    input common mode range
*    CMRR vs freq
*    I bias vs Vcm in    
*    Slew rate
*    Output currents are reflected to V supplies
*
*    Vos is static and will not vary with Vcm in
*    Step response is modeled at unity gain w/1k load 
*
*    Distortion and noise are not characterized
*
*    Node assignments
*                non-inverting input
*                |   inverting input
*                |   |   positive supply
*                |   |   |   negative supply
*                |   |   |   |   output
*                |   |   |   |   |
.SUBCKT AD8031a  1   2   99  50  61   

***** Input bias current source

ecm 20 0 3 97 1 
d1 20 21 dx
d2 23 20 dx
v3 21 22 -0.9
v4 24 23 -0.9
r20 22 0 100
r21 24 0 100
f1 0 25 v3 1 
f2 25 0 v4 1
r22 25 0 1k
d3 25 26 dx
d4 27 25 dx
v5 26 0 0.2
v6 0 27 0.3
g1 1 0 25 0 400e-9
g2 2 0 25 0 400e-9

***** Input Stage

R1 1 3 140k
R2 3 2 140k
C1 1 2 1.6pf
R3 1 98 40e6
R4 2 98 40e6 
r9 15 7 1015
r10 16 7 1015
q1 5 1 15 qn1
q2 6 4 16 qn1
r5 99 5 1515
r6 99 6 1515
cp 5 6 0.657p
ib3 7 50 1e-4
eos 2 4 poly(1) (105,98) 0.55e-3 1 


***** dummy first stage (pnp) for correct bias current

ib4 81 99 1e-4
r11 82 81 1015
r12 83 81 1015
q3 84 1 82 qp1 
q4 85 4 83 qp1
r13 50 84 1515
r14 50 85 1515

***** gain stage/pole at 2530hz/clamp circuitry

g3 99 31 6 5 0.692
g4 31 50 5 6 0.692
r7 99 31 19072
r8 31 50 19072
c3 99 31 3.3n
c4 31 50 3.3n

vc1 99 45 0.66
vc2 46 50 1.11
dc1 31 45 dx
dc2 46 31 dx

***** internal reference

rdiv1 99 97 100k
rdiv2 97 50 100k
Eref 98 0 97 0 1
rref 98 0 1e6

***** Common mode gain network

gacm1 99 100 3 98 7.94e-13
gacm2 100 50 98 3 7.94e-13
racm1 99 100 1e4
racm2 100 50 1e4

***** Common mode gain network/zero at 2530hz 

ecm1  101 98 100 98 1e6 
racm3 101 102 1e6
racm4 102 103 1
lacm1 103 98 62.9u

***** Common mode gain network/zero at 450hz/pole at 1mhz

ecm2  104 98 102 98 6000
racm5 104 105 6000
racm6 105 106 1
lacm2 106 98 354u

***** buffer to output stage

gbuf 98 32 31 98 1e-4
re1 32 98 10k

***** output stage

fo1 98 110 vcd 1
do1 110 111 dx
do2 112 110 dx
vi1 111 98 0
vi2 98 112 0

fsy 99 50 poly(2) vi1 vi2 5.61e-4 1 1

go3 60 99 99 32 0.5
go4 50 60 32 50 0.5
r03 60 99 2
r04 60 50 2
vcd 60 62 0
lo1 62 61 2u
ro2 61 98 1e9
do5 32 70 dx
do6 71 32 dx
vo1 70 60 -0.642
vo2 60 71 -0.628

.model dx d(is=1e-15)
.model qn1 npn(bf=2500 vaf=100)
.model qp1 pnp(bf=2500 vaf=60)
.ends ad8031a
